US06297258B1
4-[1,4′]Bipiperidinyl-1′-yl-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
A mixture of 250 mg (0.51 mmol) of 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide, and 172 mg (1.02 mmol) of 4-piperidinopiperidine in 5.0 ml dimethylformamide was stirred at room temperature for 4 hr and at 60° C. for 1 hr. After the mixture was cooled, the suspension was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. The extracts were evaporated to an oil and purified by preparative TLC to yield 100 mg (40%) yellow solid: mp 140-144° C.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.51 mmol, 250 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | 4-piperidinopiperidine | 1.02 mmol, 172 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-[1,4′]Bipiperidinyl-1′-yl-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 100 mg, 40% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CCC(CC1)N1CCCCC1)=O)OC)C#N | C31H34ClFN6O2
